US05445762
4,10-Bis((1-adamantanyl) acetyl) - 1,7-dioxa-4,10-diazacyclododecane
Analogously to Example 2 from 1,7-dioxa-4,10-diazacyclododecane and (1-adamantyl ) acetyl chloride.

reactant | 1,7-dioxa-4,10-diazacyclododecane | O1CCNCCOCCNCC1 | C8H18N2O2
reactant | (1-adamantyl ) acetyl chloride | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
product | 4,10-Bis((1-adamantanyl) acetyl) - 1,7-dioxa-4,10-diazacyclododecane | C12(CC3CC(CC(C1)C3)C2)CC(=O)N2CCOCCN(CCOCC2)C(CC23CC1CC(CC(C2)C1)C3)=O | C32H50N2O4
